US05663195
3-(Phenyl)-4-(4-(methylsulfonyl)phenyl)-2-(5H)-furanone
Into a 20 mL glass ampule are added 1 g of 2-(4-(methylsulfonyl)phenyl)phenylacetylene, 20 mg of Rh4 (CO)12, 1.5 g of Et3N, 10 mL of THF, 1 mL of H2O under a nitrogen atmosphere, and the ampule is placed in a 100-mL stainless steel autoclave. The reaction system is flushed three times with CO then charged at r.t. to an initial CO pressure of 100 atm. The reaction is carried at 100° C. for 5 h. The solution is then diluted with 50 mL of benzene and washed with brine and 1N HCl. The benzene solution is dried over Na2SO4, and concentrated. The crude products are separated by column chromatography on silica gel, eluting with 2:1 EtOAc/hexane to give the title compound and its regioisomer, 4-(phenyl)-3-(4-(methylsolfonyl)phenyl-2-(5H)-furanone.

reactant | 2-(4-(methylsulfonyl)phenyl)phenylacetylene | 1 g | CS(=O)(=O)C1=CC=C(C=C1)C1=C(C=CC=C1)C#C | C15H12O2S
reactant | Et3N | 1.5 g | CCN(CC)CC | C6H15N
reactant | THF | 10 mL | C1CCOC1 | C4H8O
reactant | H2O | 1 mL | O | H2O
product | 3-(Phenyl)-4-(4-(methylsulfonyl)phenyl)-2-(5H)-furanone | C1(=CC=CC=C1)C=1C(OCC1C1=CC=C(C=C1)S(=O)(=O)C)=O | C17H14O4S
